US05840751
5,6-Dihydro-4-hydroxy-6-[(methylphenylamino)methyl]-6-phenyl-2H-pyran-2-one (±)
The title compound was prepared as described in General Method 1 using 6.7 mmol of methyl acetoacetate, 7.3 mmol of NaH 60% dispersion in oil, 7.0 mmol of 1.6M n-butyl lithium in hexane, 6.7 mmol of 2-(methylphenylamino)-1-phenylethanone and 40 mL of tetrahydrofuran. The reaction mixture was acidified to pH 7 with conc. HCl and then taken to pH 3 with acetic acid. The product was flash chromatographed using CH2 Cl2 /MeOH (99/1) to give a solid (m.p. 152°-153° C.). 1H NMR (CDCl3) δ 2.9 (d, 1 H), 3.05 (s, 3 H), 3.1 (d, 1 H), 3.2 (d, 1 H), 3.3 (d, 1 H), 3.7 (ABq, 2 H), 6.7-6.8 (m, 3 H), 7.2-7.3 (m, 2 H), 7.3-7.5 (m, 5 H).

reactant | methyl acetoacetate | 6.7 mmol | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 7.3 mmol | [H-].[Na+]
reactant | n-butyl lithium | 7.0 mmol, 1.6M | C(CCC)[Li]
reactant | 2-(methylphenylamino)-1-phenylethanone | 6.7 mmol | CN(CC(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C15H15NO
reactant | HCl | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 5,6-Dihydro-4-hydroxy-6-[(methylphenylamino)methyl]-6-phenyl-2H-pyran-2-one | OC1=CC(OC(C1)(C1=CC=CC=C1)CN(C1=CC=CC=C1)C)=O | C19H19NO3
